Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8]>>[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8].[O:1],8.06579877
[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-0.487745698129
[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5][H:6],7.617961770930001
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.5139039607
[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1](=[C:2][C:7]([H:8])([H:9])[O:10][H:11])([H:5])[H:6].[C:3]#[C:4],6.08325084852
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10],1.77212913448
[H:10].[H:1]/[C:2](=[C:3](\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.94293567126
[O:1][C@:2]([H:3])([C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[H:5].[O:1][C@:2]([H:3])([C:4]#[C:6][H:7])[C:8]([H:9])([H:10])[C:11][H:12],2.22216424983
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])[H:11]>>[O:1]=[C:2][C@:3]1([C:4]([H:5])([H:6])[H:7])[O:8][C:9]1([H:10])[H:11],-0.712343553019
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]#[C:12][H:13],2.3828413288
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[O:2],-1.15006082263
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7]>>[O:1][C@:2]([H:3])([C:4]#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-0.514543102001
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]#[C:5][C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3],7.0197245477
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-1.7560593143099998
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])=[C:9][H:10].[H:5],1.5491298913999998
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.37123249457
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4],4.13578210662
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:10][H:11],2.09462314804
[C:1]=[C:2]([H:3])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.57203538683
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:4],2.16013821133
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.29413960574
[H:1][C:2]#[C:4][C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],-2.36958448654
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[O:3][C:4]([H:5])([H:6])[O:7][H:8],2.4245861989
[O:1][O:2][C:3][C:4]1([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],0.63288442568
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:4],3.7505279695
[C:9]([H:10])([H:11])[H:15].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.2769449296
[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-8.16833511064
[H:12].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.97914862163
